US07230017B2
Dimethyl 2-(4-cyanobenzylidene)malonate
Dimethyl malonate (5.04 g, 38.13 mmol), 4-cyanobenzaldehyde (5.00 g, 38.13 mmol) and piperidine (0.097 g, 1.1 mmol) are dissolved in methanol (150 ml). The reaction mixture is stirred for two days (48 hours) at room temperature. The solvent is removed in vacuo to afford a viscous oil which is recrystallised from methanol.

reactant | Dimethyl malonate | 38.13 mmol, 5.04 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 4-cyanobenzaldehyde | 38.13 mmol, 5.00 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | piperidine | 1.1 mmol, 0.097 g | N1CCCCC1 | C5H11N
solvent | methanol | 150 ml | CO | CH4O
product | Dimethyl 2-(4-cyanobenzylidene)malonate | C(#N)C1=CC=C(C=C(C(=O)OC)C(=O)OC)C=C1 | C13H11NO4
